US20010047031A1
To a room temperature solution of (RS)-3-(1H-indazol-5-ylsulfanyl)-pyrrolidine-1-carboxylic acid tert-butyl ester (0.2 g, 0.61 mmol), and dimethylaminopyridine (7.4 mg,, 0.06 mmol) in CH2Cl2 (3 ml) was added slowly a solution of di-tert-butyl dicarbonate (0.13 g, 0.61 mmol) in CH2Cl2. After 30 minutes stirring at room temperature, the reaction mixture was washed with H2O, dried over Na2SO4, filtered and concentrated. The residue was chromatographed over silica gel (hexane-ethylacetate 9:1 then 8:2) to provide (RS)-5-(1-tert-butoxycarbonyl-pyrrolidin-3-ylsulfanyl)-indazole-1-carboxylic acid tert-butyl ester (0.19 g, 74%) as a yellow oil, MS: m/e=420.4 (M+H+).

reactant | (RS)-3-(1H-indazol-5-ylsulfanyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.61 mmol, 0.2 g | C(C)(C)(C)OC(=O)N1CC(CC1)SC=1C=C2C=NNC2=CC1 | C16H21N3O2S
reactant | dimethylaminopyridine | 0.06 mmol, 7.4 mg | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | di-tert-butyl dicarbonate | 0.61 mmol, 0.13 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | CH2Cl2 | 3 ml | C(Cl)Cl | CH2Cl2
product | (RS)-5-(1-tert-butoxycarbonyl-pyrrolidin-3-ylsulfanyl)-indazole-1-carboxylic acid tert-butyl ester | 0.19 g, 74% | C(C)(C)(C)OC(=O)N1N=CC2=CC(=CC=C12)SC1CN(CC1)C(=O)OC(C)(C)C | C21H29N3O4S
